US05207947
(1) Synthesis of 2-n-decyloxycarbonylnaphthalene-6-carboxylic acid chloride
After a solution of n-decyl alcohol (0.5 g), naphthalene-2,6-dicarboxylic acid dichloride (0.6 g), and triethylamine (0.27 g) and a very small amount of dimethylaminopyridine in methylene chloride (50 ml) was stirred at room temperature overnight, the solution was distilled to remove the solvent, until the titled compound (about 0.5 g) was obtained.

reactant | n-decyl alcohol | 0.5 g | C(CCCCCCCCC)O | C10H22O
reactant | naphthalene-2,6-dicarboxylic acid dichloride | 0.6 g | C1=C(C=CC2=CC(=CC=C12)C(=O)Cl)C(=O)Cl | C12H6Cl2O2
reactant | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-n-decyloxycarbonylnaphthalene-6-carboxylic acid chloride | about 0.5 g | C(CCCCCCCCC)OC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)Cl | C22H27ClO3
